US07342014B2
(3R,4S)-4-[(Methylsulfonyl)oxy]tetrahydro-3-furanyl methanesulfonate
Triethylamine (12.0 ml) and methanesulfonyl chloride (3.6 ml) were successively added dropwise to a solution of 1,4-anhydroerythritol (5.0 g) in methylene chloride (50 ml) under ice cooling, and the mixture was stirred for 10 minutes under ice cooling. The reaction mixture was diluted with methylene chloride and washed with 10% hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride. After the resultant organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to obtain the title compound (9.2 g).

reactant | Triethylamine | 12.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,4-anhydroerythritol | 5.0 g | C1[C@H](O)[C@H](O)CO1 | C4H8O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (3R,4S)-4-[(Methylsulfonyl)oxy]tetrahydro-3-furanyl methanesulfonate | 9.2 g | CS(=O)(=O)O[C@@H]1COC[C@@H]1OS(=O)(=O)C | C6H12O7S2
